US08217177B2
3-(difluoro(quinolin-6-yl)methyl)-N,N-dimethylisoxazolo[4,5-b]pyridin-5-amine
To a microwave vial was added dimethylamine (2.0 M in THF, 0.75 mL, 1.5 mmol) and, 6-((5-chloroisoxazolo[4,5-b]pyridin-3-yl)difluoromethyl)quinoline (0.10 g, 0.30 mmol) in ethanol (3 mL). The mixture was stirred at 140° under microwave irradiation for two hours then was concentrated and purified by MPLC (eluted with a gradient of 10 to 50% ethyl acetate in hexanes) to yield the product as a light yellow solid (87 mg, 85%). MS m/z=341.2 [M+1]+ Calc'd for C18H14F2N4O: 340.3.

reactant | dimethylamine | 1.5 mmol, 2.0 M, 0.75 mL | CNC | C2H7N
reactant | 6-((5-chloroisoxazolo[4,5-b]pyridin-3-yl)difluoromethyl)quinoline | 0.30 mmol, 0.10 g | ClC1=CC=C2C(=N1)C(=NO2)C(C=2C=C1C=CC=NC1=CC2)(F)F | C16H8ClF2N3O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-(difluoro(quinolin-6-yl)methyl)-N,N-dimethylisoxazolo[4,5-b]pyridin-5-amine | 87 mg, 85% | FC(C1=NOC=2C1=NC(=CC2)N(C)C)(C=2C=C1C=CC=NC1=CC2)F | C18H14F2N4O
